US08232278B2
Preparation of 4-chloro-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine
To a suspension of 6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)-one (150 mg, 0.53 mmol) in toluene (30 ml) was added phosphorus oxychloride (148 μl, 1.59 mmol) and 2,6-lutidine (185 μl, 1.59 mmol). The reaction mixture was refluxed overnight until a black solution was obtained. After evaporation to dryness, the residue was redissolved in ethyl acetate and extracted with a saturated sodium bicarbonate solution. The combined organic layers were evaporated in vacuo. The residue was purified by silica gel column chromatography, the mobile phase being an ethyl acetate/hexane mixture, in a ratio gradually ranging from 2:8 to 3:7, resulting in the pure title compound (123 mg, yield 77%) which was characterised by its mass spectrum as follows: MS (m/z): 302, 304 ([M+H]+, 100).

reactant | 6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)-one | 0.53 mmol, 150 mg | COC=1C=C(C=CC1OC)C=1C=CC=2N=CNC(C2N1)=O | C15H13N3O3
reactant | phosphorus oxychloride | 1.59 mmol, 148 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-lutidine | 1.59 mmol, 185 μl | N1=C(C=CC=C1C)C | C7H9N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine | 123 mg, yield 77% | ClC=1C2=C(N=CN1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC | C15H12ClN3O2
